* source SCHMITT-TRIGGER
X_P21         N00405 N48574 OUTS8 POT PARAMS: SET=0.5 VALUE=5k
R_R22         N00405 0 R_R22 1.2k TC=0,0 
.model        R_R22 RES R=1 DEV=1% TC1=0 TC2=0
C_C         N00446 N38624 C_C 10n  TC=0,0 
.model        C_C CAP C=1 DEV=10% TC1=0 TC2=0 VC1=0 VC2=0
R_R11         N00546 OUTS8 R_R11 20k TC=0,0 
.model        R_R11 RES R=1 DEV=1% TC1=0 TC2=0
R_R13         N00546 N38624 R_R13 4.7k TC=0,0 
.model        R_R13 RES R=1 DEV=1% TC1=0 TC2=0
R_R24         N48574 N00446 R_R24 10k TC=0,0 
.model        R_R24 RES R=1 DEV=1% TC1=0 TC2=0
V_V1         +VCC 0 15Vdc
V_V2         -VCC 0 -15Vdc
X_U1A         N00546 0 +VCC -VCC OUTS8 TL082
X_U1B         0 N00446 +VCC -VCC N38624 TL082
R_Rload         OUT 0 R_Rload 25 TC=0,0 
.model        R_Rload RES R=1 DEV=1% TC1=0 TC2=0
D_D2         N38315 N38305 D1N1190 
D_D1         N38243 N38315 D1N1190 
Q_Q2         -VCC N38305 OUT MPS2907
R_R41         +VCC N38243 R_R41 1.2k TC=0,0 
.model        R_R41 RES R=1 DEV=5% TC1=0 TC2=0
Q_Q1         +VCC N38243 OUT MPS2716
R_R42         N38305 -VCC R_R42 1.2k TC=0,0 
.model        R_R42 RES R=1 DEV=5% TC1=0 TC2=0
X_U2B         N38624 N43623 +VCC -VCC N38315 TL082
R_R31         N43623 0 R_R31 10k TC=0,0 
.model        R_R31 RES R=1 DEV=1% TC1=0 TC2=0
R_R32         N43623 N43925 R_R32 10k TC=0,0 
.model        R_R32 RES R=1 DEV=1% TC1=0 TC2=0
X_P33         N43925 N43925 OUT POT PARAMS: SET={SET} VALUE=10k
D_Dz1         N45778 OUTS8 BZ-075 
D_Dz2         N45778 0 BZ-075 
.PARAM  set=0.5
